US07517873B2
A mixture of 1.02 g (0.003 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopropyl-amino]-2-methyl-butanoic acid ethyl ester (IV-46) in 30 mL of ethyl acetate and 0.5 g of 5% palladium on carbon catalyst was stirred under an atmosphere of hydrogen until hydrogen uptake was complete. The mixture was filtered through a pad of Celite, washing the filter pad with dichloromethane. Concentration of the filtrate under reduced pressure gave 0.68 g of (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopropyl-amino]-2-methyl-butanoic acid ethyl ester (V-46). This material was used directly in the next step without further purification.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopropyl-amino]-2-methyl-butanoic acid ethyl ester | 0.003 mole, 1.02 g | C(C)OC(C(C(C)N(C1CC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C14H19ClN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopropyl-amino]-2-methyl-butanoic acid ethyl ester | 0.68 g | C(C)OC(C(C(C)N(C1CC1)C1=NC(=NC=C1N)Cl)C)=O | C14H21ClN4O2
